US07750155B2
A mixture of methyl (2E)-3-(5-chloro-2-pyrazinyl)acrylate (10.00 g), tert-butyl (3R)-3-amino-1-pyrrolidinecarboxylate (14.01 g) and potassium phosphate (21.30 g) in DMA (25 mL) was stirred at 90-95° C. for 6 hours under nitrogen atmosphere. After addition of water, the reaction mixture was extracted with AcOEt. Water was added to the organic layer and the mixture was adjusted to pH 8 with 1N HCl aq., washed with water, dried over magnesium sulfate and concentrated under reduced pressure to give a residue. The residue was purified by silica gel (chromatorex NH) (hexane-AcOEt 60:40 v/v) to give tert-butyl (3R)-3-({5-[(1E)-3-methoxy-3-oxo-1-propen-1-yl]-2-pyrazinyl}amino)-1-pyrrolidinecarboxylate as a solid (10.64 g).

reactant | methyl (2E)-3-(5-chloro-2-pyrazinyl)acrylate | 10.00 g | ClC=1N=CC(=NC1)/C=C/C(=O)OC | C8H7ClN2O2
reactant | tert-butyl (3R)-3-amino-1-pyrrolidinecarboxylate | 14.01 g | N[C@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | potassium phosphate | 21.30 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | O | H2O
solvent | DMA | 25 mL | CC(=O)N(C)C | C4H9NO
product | tert-butyl (3R)-3-({5-[(1E)-3-methoxy-3-oxo-1-propen-1-yl]-2-pyrazinyl}amino)-1-pyrrolidinecarboxylate | 10.64 g | COC(/C=C/C=1N=CC(=NC1)N[C@H]1CN(CC1)C(=O)OC(C)(C)C)=O | C17H24N4O4
